US04843087
To a suspension of 301 mg of lithium wire (1/4 inch portions) in 10 ml of tetrahydrofuran under nitrogen was added 6.72 ml of diisopropylamine and 3.44 ml of styrene while maintaining the temperature at 25° C. The mixture was stirred until all the lithium had dissolved (about four hours) and then cooled to -55° C. 3,5-Dimethylisoxazole (4.3 g) in 10 ml of tetrahydrofuran was then added dropwise and the mixture stirred for an hour at -55° C. 4-(6-Bromohexyloxy)benzonitrile (12 g) in 10 ml of tetrahydrofuran was then added dropwise over a period of one hour, and the mixture was allowed to warm to room temperature and stirred for three days. The solvent was removed in vacuo, the residue treated with 5% ammonium chloride solution and extracted with ether. The ether extracts were dried and concentrated, and the residue subjected to high pressure liquid chromatography with ether-hexane (1:1) mixture to give 3.9 g of 5-[7-(4-cyanophenoxy)heptyl]-3-methylisoxazole, used directly in the next reaction.

reactant | lithium | 301 mg | [Li] | Li
reactant | diisopropylamine | 6.72 ml | C(C)(C)NC(C)C | C6H15N
reactant | styrene | 3.44 ml | C=CC1=CC=CC=C1 | C8H8
reactant | 3,5-Dimethylisoxazole | 4.3 g | CC1=NOC(=C1)C | C5H7NO
reactant | 4-(6-Bromohexyloxy)benzonitrile | 12 g | BrCCCCCCOC1=CC=C(C#N)C=C1 | C13H16BrNO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-[7-(4-cyanophenoxy)heptyl]-3-methylisoxazole | 3.9 g | C(#N)C1=CC=C(OCCCCCCCC2=CC(=NO2)C)C=C1 | C18H22N2O2
